US06271403B1
A solution of 36.12 g of 17,17-ethylenedioxy-7α-(5-hydroxypentyl)-estra-1,3,5(10),15-tetraen-3-ol in 958 ml of acetone and 111 ml of water is stirred for 2 hours at room temperature with 2.76 g of para-toluenesulfonic acid. Then, it is concentrated by evaporation in a vacuum to ⅓ of the volume, taken up with ethyl acetate, washed neutral, dried on sodium sulfate and concentrated by evaporation in a vacuum. 31.7 g of 3-hydroxy-7α-5-hydroxypentyl)-estra- 1,3,5(10),15-tetraen- 17-one is obtained as crystals with a melting point of 194-196° C.

reactant | 17,17-ethylenedioxy-7α-(5-hydroxypentyl)-estra-1,3,5(10),15-tetraen-3-ol | 36.12 g | C1OC2([C@]3(C)[C@@H](C=C2)[C@@H]2[C@@H](CC=4C=C(C=CC4[C@H]2CC3)O)CCCCCO)OC1 | C25H34O4
reactant | para-toluenesulfonic acid | 2.76 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | acetone | 958 ml | CC(=O)C | C3H6O
solvent | water | 111 ml | O | H2O
product | estra- 1,3,5(10),15-tetraen- 17-one | C[C@@]12C(C=C[C@H]1[C@@H]1CCC=3C=CC=CC3[C@H]1CC2)=O | C18H20O
